US06730684B1
b) N,1-Dimethyl-1H-indazole-3-carboxamide
A suspension of methyl 1-methyl-1H-indazole-3-carboxylate (3.88 g, 20.4 mmole) in 40% aqueous CH3NH2 (100 mL) and MeOH (5 mL) was stirred at RT for 4 hr, during which time a homogeneous solution formed. The solution was concentrated to approximately ⅓ volume and the precipitated solid was collected by filtration, washed with H2O, and dried in vacuo to give the title compound (3.42 g. 89%) as a pale yellow solid: 1H NMR (300 MHz, CDCl3) δ 8.24 (m, 1H), 7.47 (m, 2H), 7.34 (m, 1H), 6.95 (br s, 1H), 4.19 (s, 3H), 3.05 (d, J=12.0 Hz, 3H).

reactant | methyl 1-methyl-1H-indazole-3-carboxylate | 20.4 mmole, 3.88 g | CN1N=C(C2=CC=CC=C12)C(=O)OC | C10H10N2O2
reactant | CH3NH2 | 100 mL | CN | CH5N
solvent | MeOH | 5 mL | CO | CH4O
product | N,1-Dimethyl-1H-indazole-3-carboxamide | 3.42 g, 89% | CNC(=O)C1=NN(C2=CC=CC=C12)C | C10H11N3O
